data/oMe_Silver.jsonl
{"reaction_id": "NR-120_1-c1ccc(OC)cc1_2-c1cnccc1_3-c1ccc2c(c1)OCO2","name": "Julia-Kociensky Olefination","level": "medium","reactants_smiles": ["C(c1ccc(OC)cc1)(c1cnccc1)S(=O)(=O)c1sc2ccccc2n1","C(c1ccc2c(c1)OCO2)=O"],"products_smiles": ["C(c1ccc2c(c1)OCO2)=C(c1ccc(OC)cc1)c1cnccc1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](c1ccc(OC)cc1)(c1cnccc1)S(=O)(=O)c1sc2ccccc2n1","rationale": "The strong base deprotonates the α-position to the sulfone, as the negative charge is stabilized by resonance with the electron-withdrawing sulfone group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc2c(c1)OCO2)([O-])C(c1ccc(OC)cc1)(c1cnccc1)S(=O)(=O)c1sc2ccccc2n1","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, favored by polarization of the C=O bond and minimal steric hindrance from c1ccc2c(c1)OCO2."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC=C2C(=C1)[N-]C3(S2)[S](=O)(c(C(O3)(c1ccc2c(c1)OCO2))(c1ccc(OC)cc1)c1cnccc1)=O","rationale": "Intramolecular attack by the alkoxide on the heteroaryl ring occurs due to proximity and the electrophilicity of the activated heteroaryl sulfur, forming a cyclic intermediate."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "c1ccc2c(c1)n=c(s2)OC(c1ccc2c(c1)OCO2)C(c1ccc(OC)cc1)(c1cnccc1)[S](=O)[O-]","rationale": "Heterolytic cleavage of the S–C bond is driven by the stability of the leaving heteroaryl sulfinate anion and relief of ring strain."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc2c(c1)OCO2)=C(c1ccc(OC)cc1)c1cnccc1","rationale": "Base-induced elimination occurs as the β-alkoxy group departs with the sulfinate, forming the thermodynamically favored alkene."}],"description": "Under basic conditions, the sulfone-stabilized carbanion adds to the carbonyl, forming a β-alkoxysulfone intermediate. Subsequent intramolecular rearrangement and fragmentation release the heteroaryl sulfone, driving elimination to yield the alkene via the Julia–Kocienski olefination pathway."}
{"reaction_id": "NR-338_1-c1cncc(c1)C_2-C_3-c1ccc(OC)cc1_4-c1ccc(C)cc1_5-c1ccccc1","level": "medium","name": "Rubottom Oxidation","reactants_smiles": ["C(=C(C)c1ccc(OC)cc1)(c1cncc(c1)C)O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1","O=C(OO)c1ccccc1"],"products_smiles": ["C(=O)(C(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(C)c1ccc(OC)cc1)c1cncc(c1)C"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C1(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(c1cncc(c1)C)C(C)(c1ccc(OC)cc1)O1","step_weight": 0,"rationale": "The electron-rich alkene of the silyl enol ether attacks the electrophilic peracid oxygen, favored by π-electron donation from the oxygen substituent and the strong electrophilicity of the peracid's terminal oxygen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=[O+][Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(c1cncc(c1)C)C([O-])(C)c1ccc(OC)cc1","step_weight": 0,"rationale": "The 1,2-shift of the silyl group is driven by the stability of the silicon–oxygen bond and the ability of silicon to stabilize positive charge via hyperconjugation and empty d-orbital participation."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=O)(C(O[Si](c1ccc(C)cc1)(c1ccc(C)cc1)c1ccc(C)cc1)(C)c1ccc(OC)cc1)c1cncc(c1)C","step_weight": 0,"rationale": "Nucleophilic attack by the oxygen displaces the leaving group, restoring the carbonyl; silicon’s strong affinity for oxygen makes the silyloxy group stable in the product."}],"description": "The silyl enol ether undergoes electrophilic addition with the peracid to form a dioxirane-like intermediate. A 1,2-shift transfers the silyl group with concurrent oxygen insertion, driven by stabilization of the developing positive charge. Finally, nucleophilic substitution regenerates the carbonyl, yielding the α-silyloxy ketone."}
